US08975277B2
(S)-4-[(R)-5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid 2,2,2-trifluoro-1-methyl-ethyl ester
Carbonic acid 4-nitro-phenyl ester (S)-2,2,2-trifluoro-1-methyl-ethyl ester (85 mg) is added to a solution of (R)-5-(4-methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine (100 mg) and N,N-diisopropyl-ethylamine (60 μL) in tetrahydrofuran (2 mL) at room temperature. The solution is stirred at room temperature overnight and then washed with 1 N aqueous NaOH solution (3×), water, and brine. The organic phase is dried (MgSO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 1:1→1:3) to give the title compound. LC (method 1): tR=1.00 min; Mass spectrum (ESI+): m/z=499 [M+H]+.

reactant | Carbonic acid 4-nitro-phenyl ester (S)-2,2,2-trifluoro-1-methyl-ethyl ester | 85 mg | FC([C@H](C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C10H8F3NO5
reactant | (R)-5-(4-methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | 100 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)O[C@H](C2)C2CCNCC2 | C19H22N2O3S
reactant | N,N-diisopropyl-ethylamine | 60 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (S)-4-[(R)-5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid 2,2,2-trifluoro-1-methyl-ethyl ester | FC([C@H](C)OC(=O)N1CCC(CC1)[C@H]1CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)(F)F | C23H25F3N2O5S
